US07935688B2
(2) Synthesis of (4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-fluoro-2′-methyl-biphenyl-4-yl)-acetic Acid Methyl Ester
Trifluoroacetic acid (0.10 mL) was added to a solution of [4′-(1-{4-[3-(t-butyl-dimethyl-silanyloxy)-4,4-dimethyl-pentyl]-3-methyl-phenyl}-1-ethyl-propyl)-3-fluoro-2′-methyl-biphenyl-4-yl]-acetic acid methyl ester (Example 60-(1); 13.5 mg, 0.0209 mmol) in dichloromethane (0.50 mL) at room temperature, and the mixture was stirred at room temperature for two hours. The solvent in the reaction solution was distilled off under reduced pressure, and the residue was diluted with diethyl ether. The mixture was adjusted to pH 8 with aqueous sodium bicarbonate solution, followed by extraction with diethyl ether. The extract was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=5/1) to give the title compound (8.5 mg, 76%).

reactant | Trifluoroacetic acid | 0.10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [4′-(1-{4-[3-(t-butyl-dimethyl-silanyloxy)-4,4-dimethyl-pentyl]-3-methyl-phenyl}-1-ethyl-propyl)-3-fluoro-2′-methyl-biphenyl-4-yl]-acetic acid methyl ester | 0.0209 mmol, 13.5 mg | COC(CC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)CCC(C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C)F)=O | C41H59FO3Si
solvent | dichloromethane | 0.50 mL | ClCCl | CH2Cl2
product | (4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-fluoro-2′-methyl-biphenyl-4-yl)-acetic Acid Methyl Ester | 8.5 mg, 76% | COC(CC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C)CC)C)F)=O | C35H45FO3
